US08580794B2
Ethyl 2-hydroxy-3,3-dimethylcyclohex-1-enecarboxylate
Into a 500 mL round-bottomed flask was added diisopropylamine (3.5 mL) in ether (200 mL). After cooling to −30° C., butyllithium (16 mL) (1.6M in hexane) was added slowly. After stirring 30 minutes, the temperature was cooled to −5° C. 2,2-Dimethylcyclohexanone (3 g) was added slowly. The mixture was warmed up to 0° C. and stirred for 1 hour. After cooling to −5° C., hexamethylphosphoramide (8 mL) and ethyl carbonocyanidate (2.5 mL) were added. After stirring at −5° C. for 20 minutes, and warming to room temperature, the reaction was stirred for 1 hour. The mixture was poured into cold water, and the layers were separated. The aqueous layer was extracted with ether (3×20 mL). The combined the organic layers were washed with saturated aqueous NH4Cl (3×20 mL). After drying over Na2SO4, the mixture was filtered and the filtrate was concentrated. The crude product was purified by flash chromatography on silica with 0-10% ethyl acetate in hexanes to provide the title compound.

reactant | diisopropylamine | 3.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 1.6M, 16 mL | C(CCC)[Li]
reactant | 2,2-Dimethylcyclohexanone | 3 g | CC1(C(CCCC1)=O)C | C8H14O
reactant | ethyl carbonocyanidate | 2.5 mL | C(OCC)(=O)C#N | C4H5NO2
solvent | ether | 200 mL | CCOCC | C4H10O
solvent | water | O | H2O
solvent | hexamethylphosphoramide | 8 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | Ethyl 2-hydroxy-3,3-dimethylcyclohex-1-enecarboxylate | OC1=C(CCCC1(C)C)C(=O)OCC | C11H18O3
